US07384934B2
(S)-1,4-Dibenzyl-2-(3-methoxy-allyl)-piperazine
Add LiHMDS (1M in THF, 21.38 mL, 21.38 mmol) to (methoxymethyl)triphenyl-phosphonium chloride (7.329 g, 21.38 mmol) in THF (51.0 mL) via syringe at 0° C. and stir. After 30 minutes, add (S)-(1,4-dibenzyl-piperazin-2-yl)-acetaldehyde (4.71 g, 15.27 mmol) in THF (51.0 mL) via syringe. Remove ice bath and stir at ambient temperature. After 4 hours, add water and extract with ethyl acetate twice. Combine the organic solution, dry over sodium sulfate, filter, and concentrate under reduced pressure to give crude residue. Purify the residue by flash chromatography, eluting with ethyl acetate:hexane (40:60) to give the title compound: mass spectrum (m/e):337.18 (M+1).

reactant | LiHMDS | 21.38 mmol, 1M, 21.38 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (methoxymethyl)triphenyl-phosphonium chloride | 21.38 mmol, 7.329 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (S)-(1,4-dibenzyl-piperazin-2-yl)-acetaldehyde | 15.27 mmol, 4.71 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CC=O | C20H24N2O
reactant | water | O | H2O
reactant | THF | 51.0 mL | C1CCOC1 | C4H8O
reactant | THF | 51.0 mL | C1CCOC1 | C4H8O
product | (S)-1,4-Dibenzyl-2-(3-methoxy-allyl)-piperazine | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CC=COC | C22H28N2O
